US04776876
6-benzylthio-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-nicotinic acid, isopropyl ammonium salt
0.16 g (2.7 mmol) isopropylamine are added to a solution of 1.0 g (2.7 mmol) 6-benzylthio-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-nicotinic acid in 50 ml ether and 50 ml tetrahydrofuran. The sediment is sucked off and dried.

reactant | isopropylamine | 2.7 mmol, 0.16 g | C(C)(C)N | C3H9N
reactant | 6-benzylthio-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-nicotinic acid | 2.7 mmol, 1.0 g | C(C1=CC=CC=C1)SC1=NC(=C(C(=O)O)C=C1)C=1NC(C(N1)(C)C(C)C)=O | C20H21N3O3S
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-benzylthio-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-nicotinic acid, isopropyl ammonium salt | C(C)(C)[NH3+].C(C1=CC=CC=C1)SC1=NC(=C(C(=O)[O-])C=C1)C=1NC(C(N1)(C)C(C)C)=O | InChI=1S/C20H21N3O3S.C3H9N/c1-12(2)20(3)19(26)22-17(23-20)16-14(18(24)25)9-10-15(21-16)27-11-13-7-5-4-6-8-13;1-3(2)4/h4-10,12H,11H2,1-3H3,(H,24,25)(H,22,23,26);3H,4H2,1-2H3
